US07723369B2
5-{4-[1-(4-Bromo-benzyl)-4-(2,4-dichloro-phenyl)-1H-imidazol-2-yl]-phenyl}-1,2,5-thiadiazolidine-3-one-1,1-dioxide (59 mg, 0.1 mmol) was treated as described in general procedure G using 4-cyclohexylphenylboronic acid (41 mg, 0.2 mmol) to give 5-{4-[1-(4′-cyclohexyl-biphenyl-4-ylmethyl)-4-(2,4-dichloro-phenyl)-1H-imidazol-2-yl]-phenyl}-1,2,5-thiadiazolidine-3-one-1,1-dioxide.

reactant | 5-{4-[1-(4-Bromo-benzyl)-4-(2,4-dichloro-phenyl)-1H-imidazol-2-yl]-phenyl}-1,2,5-thiadiazolidine-3-one-1,1-dioxide | 0.1 mmol, 59 mg | BrC1=CC=C(CN2C(=NC(=C2)C2=C(C=C(C=C2)Cl)Cl)C2=CC=C(C=C2)N2CC(NS2(=O)=O)=O)C=C1 | C24H17BrCl2N4O3S
reactant | 4-cyclohexylphenylboronic acid | 0.2 mmol, 41 mg | C1(CCCCC1)C1=CC=C(C=C1)B(O)O | C12H17BO2
product | 5-{4-[1-(4′-cyclohexyl-biphenyl-4-ylmethyl)-4-(2,4-dichloro-phenyl)-1H-imidazol-2-yl]-phenyl}-1,2,5-thiadiazolidine-3-one-1,1-dioxide | C1(CCCCC1)C1=CC=C(C=C1)C1=CC=C(C=C1)CN1C(=NC(=C1)C1=C(C=C(C=C1)Cl)Cl)C1=CC=C(C=C1)N1CC(NS1(=O)=O)=O | C36H32Cl2N4O3S
